US06756378B2
To a stirred solution of methyl 3-bromo-4-[N′-(2-chlorophenyl)ureido]phenylacetate (710 mg, 1.79 mmol) in THF (10 ml) was added 0.25 N NaOH (10 ml). After stirring at room temperature for 14 h, the solvent was concentrated in vacuo. The residue was triturated by the addition of 1 N HCl and dried at 60° C. for 2 days under a reduced pressure to give 3-bromo-4-[N′-(2-chlorophenyl)ureido]phenylacetic acid (643 mg, 94%) as colorless powder. 1H-NMR (DMSO-d6) δ3.56 (s, 2H), 7.05 (m, 1H), 7.21 (dd, J=8.6, 1.7 Hz, 1H), 7.29 (t, J=7.8 Hz, 1H), 7.46 (d, J=8.1 hz, 1H), 7.46 (d, J=8.1 Hz, 1H), 7.53 (d, J=1.7 Hz, 1H), 7.83 (d, J=8.3 Hz, 1H), 8.06 (d,d J=7.6 Hz, 1H), 8.86 (s, 1H), 8.89 (s, 1H), 12.40 (s, 1H); MS (ESI) m/z 382 (M++1), 384 (M++3).

reactant | methyl 3-bromo-4-[N′-(2-chlorophenyl)ureido]phenylacetate | 1.79 mmol, 710 mg | BrC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)Cl)CC(=O)OC | C16H14BrClN2O3
reactant | NaOH | 0.25 N, 10 ml | [OH-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-bromo-4-[N′-(2-chlorophenyl)ureido]phenylacetic acid | 643 mg, 94% | BrC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)Cl)CC(=O)O | C15H12BrClN2O3
